US04689327
1.94 g of 2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine are dissolved in anhydrous acetone, and 0.73 g of methanesulfonyl isocyanate is added thereto at room temperature. After the mixture is stirred for 30 minutes, the mixture is concentrated under reduced pressure to remove solvent. The residue is collected by filtration, and washed with water and ether, successively. The crude product thus obtained is recrystallized from a mixture of acetone and ether. 1.56 g of N-methanesulfonyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazollidine-3-carboxamide are obtained.

reactant | 2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine | 1.94 g | FC=1C=C(C=CC1)N1CCN(CC1)CCOC1=C(C=CC=C1)C1SCCN1 | C21H26FN3OS
reactant | methanesulfonyl isocyanate | 0.73 g | CS(=O)(=O)N=C=O | C2H3NO3S
solvent | acetone | CC(=O)C | C3H6O
product | N-methanesulfonyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazollidine-3-carboxamide | 1.56 g | CS(=O)(=O)NC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC(=CC=C1)F | C23H29FN4O4S2
